US07402595B2
6-bromo-2-(1-tert-butoxycarbonylpiperidin-2-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a solution of 6-bromo-4-phenyl-3-isocoumarincarboxylic acid methyl ester (539 mg) in methanol (10 ml) was added 2-aminomethylpiperidine-1-carboxylic acid tert-butyl ester (1.07 g), and the mixture was stirred at room temperature for 12 hrs. The solvent was evaporated under reduced pressure, 1N hydrochloric acid was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried by adding sodium sulfate. The solvent was evaporated under reduced pressure, and 4N hydrogen chloride-ethyl acetate solution (5 ml) was added to the obtained residue. The mixture was stirred at room temperature for 10 hrs. The solvent was evaporated under reduced pressure, and 1N aqueous sodium hydroxide solution (10 ml), tetrahydrofuran (10 ml) and di-tert-butyl carbonate (437 mg) were added. The mixture was stirred at room temperature for 12 hrs. The solvent was evaporated under reduced pressure, and the obtained residue was extracted with ethyl acetate. The extract was washed with saturated brine and dried by adding sodium sulfate. The obtained residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=9/1→4/1) to give the title compound (64 mg, 12%).

reactant | 6-bromo-4-phenyl-3-isocoumarincarboxylic acid methyl ester | 539 mg | COC(=O)C=1OC(=O)C2=CC=C(C=C2C1C1=CC=CC=C1)Br | C17H11BrO4
reactant | 2-aminomethylpiperidine-1-carboxylic acid tert-butyl ester | 1.07 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CN | C11H22N2O2
solvent | methanol | 10 ml | CO | CH4O
product | 6-bromo-2-(1-tert-butoxycarbonylpiperidin-2-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 64 mg, 12% | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1N(CCCC1)C(=O)OC(C)(C)C | C28H31BrN2O5
